US07576215B2
N-METHYL-N,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXAMIDE
To a solution of N,4-diphenyl-8-(trifluoromethyl)quinoline-3-carboxamide, (0.150 g, 0.382 mmol), whose preparation is described in Example 368, in DMF (20 mL) is added sodium hydride (0.010 g, 0.421 mmol). After stirring in an ice bath for 1 h, methyl iodide (0.027 mL, 0.421 mmol) is added drop wise and the reaction mixture is removed from the ice bath and stirred 2 h. The reaction mixture is partitioned between ethyl acetate and water and the aqueous layer is extracted with ethyl acetate. The combined extracts are washed with water, brine, and dried with magnesium sulfate. The extracts are concentrated and the residue is chromatographed with 1:4 ethyl acetate:hexanes to afford the title compound as a white solid (0.147 g, 96%). mp 188-190° C.; MS (ESI) m/z 407; HRMS: calcd for C24H17N2F3O+H, 407.13712; found (ESI, [M+H]+), 407.1361.

reactant | N,4-diphenyl-8-(trifluoromethyl)quinoline-3-carboxamide | 0.382 mmol, 0.150 g | C1(=CC=CC=C1)NC(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C23H15F3N2O
reactant | sodium hydride | 0.421 mmol, 0.010 g | [H-].[Na+]
reactant | methyl iodide | 0.421 mmol, 0.027 mL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-METHYL-N,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXAMIDE | 0.147 g, 96% | CN(C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C24H17F3N2O
